* C:\Users\maxir\Escritorio\CircuitosMicroelectronicos\TL2\Correciones\DiseñoCircuitoTL2MPS.asc
R1 N001 vb 82k
R2 emisor 0 1000
V3 N002 0 SINE(0 1 1k)
R4 N003 N002 100k
C1 vb N003 2µ
CL N004 emisor 2µ
V1 N001 0 3
V2 colector 0 10
RL N004 0 4700
Q1 colector vb emisor 0 NPN
.model NPN NPN
.model PNP PNP
.lib C:\Users\maxir\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 5m
.backanno
.end
